US07355069B2
N-(2-Fluorobenzyl)ethanamine (0.554 g, 3.615 mmol) was dissolved in DMF (10 ml). (4-Hydroxyphenyl)acetic acid (0.500 g, 3.286) was added and the mixture was cooled to 0° C. N-[(1H-1,2,3-Benzotriazol-1-yloxy)(dimethylamino)methylene]-N-methylmethanaminium tetrafluoroborate (1.161 g, 3.615 mmol) and N-ethyl-N,N-diisopropylamine (0.892 g, 6.901 mmol) were added. The solution was stirred overnight at room temperature. EtOAc (20 ml) was added and the organic phase was washed with two portions of Na2CO3 (2×20 ml, aq). The organic layer was dried (MgSO4) and the solvent was removed by evaporation. The crude was purified by preparative HPLC (started with isocratic acetonitrile/buffer 60/40 and then the acetonitrile concentration was increased to 100%, the buffer was a mixture of acetonitrile/water 10/90 and ammonium acetate (0.1 M, column KR-100-7-C8, 50 mm×250 mm, flow 40 ml/min). The product-containing fractions were pooled and the acetonitrile was removed by evaporation. EtOAc (10 ml) was added and the organic phase was washed with two portions of brine and dried (MgSO4) and the solvent was removed by evaporation to give 0.69 g of N-ethyl-N-(2-fluorobenzyl)-2-(4-hydroxyphenyl)acetamide (yield 73.1%).

reactant | N-(2-Fluorobenzyl)ethanamine | 3.615 mmol, 0.554 g | FC1=C(CNCC)C=CC=C1 | C9H12FN
reactant | (4-Hydroxyphenyl)acetic acid | 0.500 g | OC1=CC=C(C=C1)CC(=O)O | C8H8O3
reactant | N-[(1H-1,2,3-Benzotriazol-1-yloxy)(dimethylamino)methylene]-N-methylmethanaminium tetrafluoroborate | 3.615 mmol, 1.161 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N-ethyl-N,N-diisopropylamine | 6.901 mmol, 0.892 g | C(C)N(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 20 ml | CCOC(=O)C | C4H8O2
product | N-ethyl-N-(2-fluorobenzyl)-2-(4-hydroxyphenyl)acetamide | 0.69 g, yield 73.1% | C(C)N(C(CC1=CC=C(C=C1)O)=O)CC1=C(C=CC=C1)F | C17H18FNO2
